US07700625B2
A solution of 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid (96 mg, 0.26 mmol) and DMF (1 drop, cat.) in DCM (3 mL) was cooled in ice then treated with oxalyl chloride (112 μL, 1.28 mmol). After 2 hours the mixture was concentrated in vacuo then azeotroped with toluene. The resulting acid chloride was dissolved in DCM (4 mL) and added to a solution of 4-[2-(2-methoxy-ethoxy)-ethoxy]-2,3-dihydro-1H-isoindole (0.26 mmol, assuming a quantitative yield from the preceding step (debenzylation procedure C16)) and triethylamine (0.20 mL, 1.4 mmol) in DCM (1 mL). After 2 hours the mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid, brine, sodium bicarbonate solution and brine. The organic phase was dried (MgSO4) and concentrated to give a black residue. This was partially purified by flash chromatography on silica (ethyl acetate/petrol gradient, 20-33%) to afford an impure sample of the intermediate (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-{4-[2-(2-methoxy-ethoxy)-ethoxy]-1,3-dihydro-isoindol-2-yl}-methanone.

reactant | 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid | 0.26 mmol, 96 mg | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C | C24H22O4
reactant | oxalyl chloride | 1.28 mmol, 112 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 1.4 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-{4-[2-(2-methoxy-ethoxy)-ethoxy]-1,3-dihydro-isoindol-2-yl}-methanone | quantitative yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=CC(=C2C1)OCCOCCOC | C37H39NO6
